US08071584B2
5-Bromo-3-(1,1-dioxido-4-thiepanyl)-1H-indole-7-carboxamide
To a solution of 1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-(1,1-dioxido-4-thiepanyl)-1H-indole-1,7-dicarboxylate (273 mg, 0.53 mmol) in methanol (3 mL) and water (1.6 mL) was added 6 M aqueous sodium hydroxide (1 mL). The mixture was heated to 85° C. for 2 h, after which time a clear yellow solution was obtained. The mixture was cooled to rt, concentrated to remove most of the methanol, and acidified with 6M aqueous hydrochloric acid until a pH=1 was obtained (pH paper). The product formed a gummy solid. The mixture was then concentrated to dryness. A light yellow gummy residue was obtained, which was used in the amide formation step as is. 5-bromo-3-(1,1-dioxido-4-thiepanyl)-1H-indole-7-carboxylic acid (prepared above) was diluted in N,N-dimethylformamide (1 mL) in a 20 mL microwave vial. EDCl hydrochloride (275 mg, 275 mg, 1.43 mmol, 2.7 eq), HOBt hydrate (81 mg, 0.6 mmol, 1.1 eq), and NH3 (0.5 M in dioxane, Aldrich, 8 mL) were added. The mixture was heated in a Biotage microwave oven at 10° C. for 20 minutes under regular absorption. The crude reaction mixture was diluted in ethyl acetate and washed with water. The aqueous layer was washed three times with ethyl acetate (30 mL). The combined organics were dried over sodium sulfate, filtered, and concentrated in vacuum oven. The crude brown oil was purified by Isco Combiflash, 40 gram column, eluting with 0-20% methanol in dichloromethane. The title compound was obtained as a yellow tarry residue (198 mg, 97% combined yield for both steps).

reactant | 1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-(1,1-dioxido-4-thiepanyl)-1H-indole-1,7-dicarboxylate | 0.53 mmol, 273 mg | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OCC)C(=O)OC(C)(C)C)C1CCS(CCC1)(=O)=O | C22H28BrNO6S
reactant | sodium hydroxide | 6 M, 1 mL | [OH-].[Na+]
reactant | 5-bromo-3-(1,1-dioxido-4-thiepanyl)-1H-indole-7-carboxylic acid | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)C1CCS(CCC1)(=O)=O | C15H16BrNO4S
reactant | EDCl hydrochloride | 1.43 mmol, 275 mg, 2.7 eq | CCN=C=NCCCN(C)C.Cl.Cl
reactant | HOBt hydrate | 0.6 mmol, 81 mg, 1.1 eq | C1=CC=C2C(=C1)N=NN2O.O
reactant | NH3 | 0.5 M, 8 mL | N | H3N
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 1.6 mL | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-3-(1,1-dioxido-4-thiepanyl)-1H-indole-7-carboxamide | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CCC1)(=O)=O | C15H17BrN2O3S
